US04000294
(1-(4-chloro-benzyl)-pyrazol-5-one)
9.8 g (0.1 mol) of propiolic acid ethyl ester and 15.6 g (0.1 mol) of p-chlorobenzylhydrazine in 100 ml of n-butanol were heated for 8 hours under reflux.

reactant | propiolic acid ethyl ester | 0.1 mol, 9.8 g | C(C)OC(C#C)=O | C5H6O2
reactant | p-chlorobenzylhydrazine | 0.1 mol, 15.6 g | ClC1=CC=C(CNN)C=C1 | C7H9ClN2
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(4-chloro-benzyl)-pyrazol-5-one | ClC1=CC=C(CN2NC=CC2=O)C=C1 | C10H9ClN2O
